US04053470
b. p-(4-Propyl-1-piperazinyl)acetophenone.
A mixture of 33.2 g. of p-fluoroacetophenone, 48.3 g. of N-propylpiperazine and 99.5 g. of potassium carbonate in 100 ml. of dimethyl sulfoxide is stirred and heated at 95° for 4.5 hours, then cooled and poured into ice water. The precipitate of p-(4-propyl-1-piperazinyl)-acetophenone is collected by filtration, washed with water and dried; m.p. 68°-70° after crystallization from hexane.

reactant | p-fluoroacetophenone | FC1=CC=C(C=C1)C(C)=O | C8H7FO
reactant | N-propylpiperazine | C(CC)N1CCNCC1 | C7H16N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | p-(4-Propyl-1-piperazinyl)acetophenone | C(CC)N1CCN(CC1)C1=CC=C(C=C1)C(C)=O | C15H22N2O
